US04474964
The procedures of preparing 1-methyl-3-bromopropyldiethylamine as described above were repeated except that 11.31 g of 2-methyl-6-phenoxyhexyl tosylate was employed instead of the 10 g of 4-phenoxy-2-butyl tosylate, and 5.33 g of 1-isobutyl-3-bromopropyldiethylamine hydrobromide was obtained in a yield of 75%.

reactant | 1-methyl-3-bromopropyldiethylamine | CC(CCBr)N(CC)CC | C8H18BrN
reactant | 2-methyl-6-phenoxyhexyl tosylate | 11.31 g | S(=O)(=O)(OCC(CCCCOC1=CC=CC=C1)C)C1=CC=C(C)C=C1 | C20H26O4S
product | 1-isobutyl-3-bromopropyldiethylamine hydrobromide | 5.33 g, yield of 75% | Br.C(C(C)C)C(CCBr)N(CC)CC | InChI=1S/C11H24BrN.BrH/c1-5-13(6-2)11(7-8-12)9-10(3)4;/h10-11H,5-9H2,1-4H3;1H
